US07348346B2
(3S, 5S)-N-Methyl-N-[5-(thiazolidine-3-carbonyl)-pyrrolidin-3-ylmethyl]-benzamide
To a solution of (2S, 4R)-4-(benzoylamino-methyl)-2-(thiazolidine-3-carbonyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (180 mg, 0.43 mmol) in anhydrous DMF (8 mL) was added sodium hydride (13 mg, 0.56 mmol) under nitrogen. The mixture stirred for 15 minutes followed by the addition of methyl iodide (0.04 mL, 0.64 mmol). The mixture was allowed to stir for 2 hours at room temperature, concentrated under reduced pressure, and the residue was partitioned between ethyl acetate (10 mL) and H2O (5 mL). The aqueous layer was extracted with ethyl acetate (2×10 mL), and the combined organic layers were dried (Na2SO4), filtered, and concentrated under reduced pressure to provide a yellow oil. To a solution of the oil in dichloromethane (10 mL) was added a solution of 4N HCl in dioxane (2 mL, 8 mmol) and the mixture was allowed to stir for 12 hours at room temperature. The mixture was concentrated under reduced pressure and the residue purified by RP-HPLC (CH3CN/H2O/TFA). MS (ESI) m/e 334 (M+H)+, 332 (M−H)−; 1H NMR (500 MHz, CD3OD) δ ppm 2.70 (m, 1H) 3.02 (s, 3H) 3.10 (m, 1H) 3.17 (t, 1H) 3.55 (m, 2H) 3.66 (m, 1H) 3.78 (m, 2H) 3.87 (m, 1H) 4.53 (m, 1H) 4.67 (m, 2H) 7.44 (dd, 2H) 7.48 (m, 3H).

reactant | (2S, 4R)-4-(benzoylamino-methyl)-2-(thiazolidine-3-carbonyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.43 mmol, 180 mg | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H](C1)CNC(C1=CC=CC=C1)=O)C(=O)N1CSCC1 | C21H29N3O4S
reactant | sodium hydride | 0.56 mmol, 13 mg | [H-].[Na+]
reactant | methyl iodide | 0.64 mmol, 0.04 mL | CI | CH3I
reactant | HCl | 4N | Cl | ClH
reactant | dioxane | 8 mmol, 2 mL | O1CCOCC1 | C4H8O2
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (3S, 5S)-N-Methyl-N-[5-(thiazolidine-3-carbonyl)-pyrrolidin-3-ylmethyl]-benzamide | CN(C(C1=CC=CC=C1)=O)C[C@@H]1CN[C@@H](C1)C(=O)N1CSCC1 | C17H23N3O2S
